US08222248B2
To a solution of 4-hydroxy-2,6-dimethylbenzaldehyde (150 mg, 1.0 mmol) and ((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol (132 mg, 1.0 mmol) in THF (10 mL) was added PPh3-resin (553 mg, 2.13 mmol/g) and DEAD (0.54 mL of a 40% solution, 1.2 mmol) and the suspension was stirred at ambient temperature overnight. The reaction mixture was filtered and partioned between water and EtOAc. The aqueous layer was extracted with EtOAc and the organic layer was dried with MgSO4, filtered and concentrated. Purification by flash chromatography using heptane/EtOAc (2:1) as eluent gave 4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-2,6-dimethylbenzaldehyde as a white solid.

reactant | 4-hydroxy-2,6-dimethylbenzaldehyde | 1.0 mmol, 150 mg | OC1=CC(=C(C=O)C(=C1)C)C | C9H10O2
reactant | ((R)-2,2-dimethyl-[1,3]dioxolan-4-yl)-methanol | 1.0 mmol, 132 mg | CC1(OC[C@H](O1)CO)C | C6H12O3
reactant | PPh3 | 553 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-2,6-dimethylbenzaldehyde | CC1(OC[C@H](O1)COC1=CC(=C(C=O)C(=C1)C)C)C | C15H20O4
